US04433085
60 g of hydrazodicarboxamide and 56 g of n-hexylamine in 100 ml of N-methylpyrrolidone are stirred at 150° C. for 6 hours, at 175° C. for 20 hours and at 180° C. for 20 hours. The solvent is then distilled off in vacuo and the residue is triturated with 100 ml of 10% strength sodium hyroxide solution. The precipitate is filtered off and the filtrate is neutralised with 10% strength hydrochloric acid. A precipitate thereby separates out, and is filtered off, washed with water and dried in vacuo. 75 g (81% of the theoretical yield) of 4-(n-hexyl)-1,2,4-triazolidine-3,5-dione are obtained as colourless crystals of melting point 144°-145° C.

reactant | hydrazodicarboxamide | 60 g | N(NC(=O)N)C(=O)N | C2H6N4O2
reactant | n-hexylamine | 56 g | C(CCCCC)N | C6H15N
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(n-hexyl)-1,2,4-triazolidine-3,5-dione | C(CCCCC)N1C(NNC1=O)=O | C8H15N3O2
